### PR TITLE
add mappings of `sum_type`, `list`, `char` and `nadd`

### PR DESCRIPTION
**Pull request by AnthonyBordg**
TODO
- [x] add proofs in coq.v of INL_def and INR_def
- [x] add INL_def and INR_def in erasing.lp
- [ ] make sure that hol_upto_indtypes.v compile (this is not check by CI)

### CODE REVIEW

File: coq.v [hunk 1]
```diff
@@ -1137,6 +1137,71 @@ Proof. (*thm_1060744*)
...
 Qed.
 
+
+(****************************************************************************)
+(* Mapping of sum_type. *)
+(****************************************************************************)
+
+Definition sum' (A B : Type') : Type' := {| type:= sum A B; el := inl (el A)|}.
+
+Definition sum_type := sum'.
```
Comment (fblanqui) [inline coq.v:1147]: Please remove sum' and define sum_type directly.

File: coq.v [hunk 2]
```diff
@@ -1137,6 +1137,71 @@ Proof. (*thm_1060744*)
...
+Lemma axiom_11 : forall {A B : Type'} (a : sum_type A B), (@_mk_sum A B (@_dest_sum A B a)) = a.
+Proof.
+  intros.
+  unfold _mk_sum.
+  apply _dest_sum_inj.
+  rewrite sym.
+  apply (@ε_spec (sum_type A B)). 
+  exists a.
+  reflexivity.
+Qed.
```
Comment (fblanqui) [inline coq.v:1175]: Please try to make proof scripts more compact by having more than one tactic by line. Now, there are also ways to structure proof scripts in Coq using bullets, etc. but I don't them.

**Review by fblanqui — COMMENTED** [review]
Thank you Anthony for your PR. I made a few syntactic remarks. More importantly, there are important theorems that need to be proved to complete this mapping: you should prove that the HOL-Light definitions of the constructors are equal to those in Coq. The theorem INL_def and INR_def should be added in erasing.lp and proved in Coq.

File: coq.v (hunk 2 above)
Comment (AnthonyBordg) [reply coq.v:1169]: done

File: coq.v (hunk 1 above)
Comment (AnthonyBordg) [reply coq.v]: done

File: coq.v (hunk 2 above)
Comment (AnthonyBordg) [reply coq.v:1169]: done

**Comment by fblanqui** [comment]
Hi. The mapping of MEM to List.In is missing. Perhaps others. Could you please add it?

**Comment by AnthonyBordg** [comment]
> Hi. The mapping of MEM to List.In is missing. Perhaps others. Could you please add it?

Sure, done. I added the mapping of FILTER (to List.filter) as well.
